US07402581B2
7-Bromoindane-5-carboxylic acid (2.9 g, 12 mmol) and oxalylchloride (2.0 g, 16 mmol) were mixed with CH2Cl2 (50 mL) whereupon DMF (100 mg) was added. After 1 h at room temperature the mixture was poured into a mixture of concentrated NH4OH aq (20 mL) and ethanol (100 mL). The volatiles were removed by evaporation and the residue partitioned between ethyl acetate (100 mL) and water (50 mL). The organic layer was washed with brine and then dried over Na2SO4. The solvent was removed by evaporation and the solid residue was treated with cold CH2Cl2, then filtered off and dried. There was obtained 2.0 g (68%) of 7-bromoindane-5-carboxamide as a solid material. 1H NMR (300 MHz, CD3CO CD3): 2.0-2.2 (m, 2H), 2.8-2.9 (d, 2H), 2.9-3.0 (t, 1H), 3.0-3.1 (t, 1H), 6.5 (b, 1H), 7.4 (b, 1H), 7.7 (s, 1H), 7.9 (s,1H).

reactant | 7-Bromoindane-5-carboxylic acid | 12 mmol, 2.9 g | BrC=1C=C(C=C2CCCC12)C(=O)O | C10H9BrO2
reactant | oxalylchloride | 16 mmol, 2.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | NH4OH | 20 mL | [NH4+].[OH-]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | DMF | 100 mg | CN(C)C=O | C3H7NO
product | 7-bromoindane-5-carboxamide | 2.0 g, 68% | BrC=1C=C(C=C2CCCC12)C(=O)N | C10H10BrNO
